US07365085B2
c) 3-{3-[(3-Chloro-2-trifluoromethyl-benzyl)-diphenylethyl-amino}-propoxy-N,N-dimethyl-benzenesulfonamide hydrochloride
DIAD (48 uL, 0.24 mmol) was added dropwise to a RT solution of 3-hydroxy-N,N,-dimethyl-benzenesulfonamide (0.040 g, 0.2 mmol), 3-[(3-chloro-2-trifluoromethyl-benzyl)-diphenylethyl-amino]-propan-1-ol (0.088 g, 0.2 mmol) and triphenylphosphine (0.063 g, 0.24 mmol). The mixture was stirred for 48 at rt than was concentrated and purified by reverse phase HPLC to provide a solid which was dissolved in CH2Cl2 and treated with excess 4M HCl in diethyl ether. The mixture was concentrated to provide 35 mg (25%) of the title compound. MS (ESI) 632 (M+H+).

reactant | DIAD | 0.24 mmol, 48 uL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 3-hydroxy-N,N,-dimethyl-benzenesulfonamide | 0.2 mmol, 0.040 g | OC=1C=C(C=CC1)S(=O)(=O)N(C)C | C8H11NO3S
reactant | 3-[(3-chloro-2-trifluoromethyl-benzyl)-diphenylethyl-amino]-propan-1-ol | 0.2 mmol, 0.088 g | ClC=1C(=C(CN(CCCO)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1)C(F)(F)F | C25H25ClF3NO
reactant | triphenylphosphine | 0.24 mmol, 0.063 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HCl | 4M | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-[(3-Chloro-2-trifluoromethyl-benzyl)-diphenylethyl-amino}-propoxy-N,N-dimethyl-benzenesulfonamide hydrochloride | 35 mg, 25% | Cl.ClC=1C(=C(CN(CCCOC2=C(C=CC=C2)S(=O)(=O)N(C)C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC1)C(F)(F)F | InChI=1S/C33H34ClF3N2O3S.ClH/c1-38(2)43(40,41)31-20-10-9-19-30(31)42-22-12-21-39(23-27-17-11-18-29(34)32(27)33(35,36)37)24-28(25-13-5-3-6-14-25)26-15-7-4-8-16-26;/h3-11,13-20,28H,12,21-24H2,1-2H3;1H
